US09193693B2
Step 2. Methyl 3-(2-bromophenethylamino)-2-phenylquinoxaline-6-carboxylate
Into a 10-mL sealed tube, was placed methyl 3-chloro-2-phenylquinoxaline-6-carboxylate (150 mg, 0.50 mmol, 1.00 equiv), 2-(2-bromophenyl)ethanamine (300.5 mg, 1.51 mmol, 3.00 equiv), potassium carbonate (347.3 mg, 2.52 mmol, 5.00 equiv), toluene/DMSO (5/1 mL). The resulting solution was stirred for overnight at 100° C. in an oil bath. The resulting mixture was concentrated under vacuum and applied onto a silica gel column with ethyl acetate/petroleum ether (1:50). This resulted in 110 mg (47%) of methyl 3-(2-bromophenethylamino)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-chloro-2-phenylquinoxaline-6-carboxylate | 0.50 mmol, 150 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11ClN2O2
reactant | 2-(2-bromophenyl)ethanamine | 1.51 mmol, 300.5 mg, 3.00 equiv | BrC1=C(C=CC=C1)CCN | C8H10BrN
reactant | potassium carbonate | 2.52 mmol, 347.3 mg, 5.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | toluene DMSO | 1 mL | C1(=CC=CC=C1)C.CS(=O)C
product | Methyl 3-(2-bromophenethylamino)-2-phenylquinoxaline-6-carboxylate | BrC1=C(CCNC=2C(=NC3=CC=C(C=C3N2)C(=O)OC)C2=CC=CC=C2)C=CC=C1 | C24H20BrN3O2
